US04192881
Nα -(4-carboxy-2-methylbutanoyl-L-lysine
By substituting Nε -benzyloxycarbonyl-L-lysine benzyl ester for the L-alanine benzyl ester in the procedure of Example 23 and then treating the product by the procedures of Examples 24 and 26, Nα -(4-methoxycarbonyl-2-methylbutanoyl)-Nε -benzyloxycarbonyl-L-lysine benzyl ester, Nα -(4-methoxycarbonyl-2-methylbutanoyl)-L-lysine and Nα -(4-carboxy)-2-methylbutanoyl)-L-lysine are obtained.

reactant | Nε -benzyloxycarbonyl-L-lysine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)CCCCNC(=O)OCC1=CC=CC=C1)=O | C21H26N2O4
reactant | L-alanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)C)=O | C10H13NO2
reactant | Nα -(4-methoxycarbonyl-2-methylbutanoyl)-Nε -benzyloxycarbonyl-L-lysine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(C(CCC(=O)OC)C)=O)CCCCNC(=O)OCC1=CC=CC=C1)=O | C28H36N2O7
reactant | Nα -(4-methoxycarbonyl-2-methylbutanoyl)-L-lysine | COC(=O)CCC(C(=O)N[C@@H](CCCCN)C(=O)O)C | C13H24N2O5
reactant | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
product | 4-carboxy-2-methylbutanoyl-L-lysine | C(=O)(O)C(C[C@H](NC(C(CC)C)=O)C(=O)O)CCN | C12H22N2O5
